US05457207
2,3-Dihydrospiro[1H-indene-1,4'-piperidine]Hydrochloride (9):
1'-Benzyl-2,3-dihydrospiro[1H-indene-l,4'-piperidine](0.50 g, 1.80 mmol) was dissolved in dichloroethane (6 mL). The resulting solution was cooled to 0° C. and 1-chloro-ethylchloroformate (0.258 g, 1.80 mmol) was added in one batch. Cooling was continued for 10 min after which the reaction mixture was refluxed for 1 h, cooled to room temperature and concentrated under reduced pressure. The residue was redissolved in MeOH (10 mL) and refluxed for 2 h. The resulting solution was concentrated under reduced pressure to obtain (0.40 g, quant.) of a pale yellow crystalline solid; m.p. 256°-257° C. (lit. 288-290); 1H NMR (CDCl3):δ1.74 (br d, 2, piperidyl β-Heq), 2.10 (td, 2, piperidyl β-Hax), 2.13 (t, 2, Ph-CH2 --CH2--, J= 6 Hz), 2.94 (t, 2, J=6 Hz, Ph-CH2 --), 3.12-3.38 (m, 4, piperidyl αHax,eq), d=7.19 (br s, 4, phenyl). MS (EI) m/e 187.2 (M+ of free base).

reactant | 1'-Benzyl-2,3-dihydrospiro[1H-indene-l,4'-piperidine] | 1.80 mmol, 0.50 g | C(C1=CC=CC=C1)N1CCC2(CC1)CCC1=CC=CC=C12 | C20H23N
reactant | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | 2,3-Dihydrospiro[1H-indene-1,4'-piperidine]Hydrochloride | Cl.N1CCC2(CC1)CCC1=CC=CC=C12 | InChI=1S/C13H17N.ClH/c1-2-4-12-11(3-1)5-6-13(12)7-9-14-10-8-13;/h1-4,14H,5-10H2;1H
